US08557805B2
[2-(7-Methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indol-2-yl)-4,5-dihydro-1,3-thiazol-5-yl]acetic acid
To a solution of ethyl[2-(7-methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indol-2-yl)-4,5-dihydro-1,3-thiazol-5-yl]acetate (2.59 g), methanol (25 mL), and tetrahydrofuran (25 mL) was added an aqueous solution (15 mL) of potassium hydroxide (1.0 g), and the mixture was stirred at room temperature for 6 hr. The reaction solution was concentrated, acidified with aqueous citric acid solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained pale-yellow crystals were washed with ethyl acetate-hexane to give the title compound (2.33 g, yield 96%) as pale-yellow crystals.

reactant | ethyl[2-(7-methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indol-2-yl)-4,5-dihydro-1,3-thiazol-5-yl]acetate | 2.59 g | C(C)OC(CC1CN=C(S1)C=1NC2=C(C=C(C=C2C1)OC=1C=NC(=CC1)S(=O)(=O)C)C)=O | C22H23N3O5S2
reactant | methanol | 25 mL | CO | CH4O
reactant | potassium hydroxide | 15 mL, 1.0 g | [OH-].[K+]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | [2-(7-Methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indol-2-yl)-4,5-dihydro-1,3-thiazol-5-yl]acetic acid | 2.33 g, yield 96% | CC=1C=C(C=C2C=C(NC12)C=1SC(CN1)CC(=O)O)OC=1C=NC(=CC1)S(=O)(=O)C | C20H19N3O5S2
